US04657926
The diethyl acetal or ketal is prepared by the above general procedure from (Z)-11-hexadecenal, (E)-and (Z)-citral in admixture and heptan-2-one using NH4Cl as catalyst in the first two cases and TsOH in the last. (Z)-1,1-Diethoxyhexadec-11-ene is obtained in 61.5% yield and has a b.p. 118°-120°C./0.05 mm, nD20 1.4475; (E)-and (Z)-1,1-diethoxy-3,7-dimethoxyocta-2,6-diene in admixture are obtained in 83.6% yield and have b.p. 68°-70°C./0.2 mm, nD20 1.4511; 2,2-diethoxyheptane is obtained in 71% yield and has b.p. 88°-92°C./18 mm.

reactant | (Z)-11-hexadecenal | C(CCCCCCCCC\C=C/CCCC)=O | C16H30O
reactant | (Z)-citral | CC(C)=CCC\C(\C)=C/C=O | C10H16O
reactant | heptan-2-one | CC(CCCCC)=O | C7H14O
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
catalyst | NH4Cl | [NH4+].[Cl-]
product | (Z)-1,1-Diethoxyhexadec-11-ene | 61.5% yield | C(C)OC(CCCCCCCCC\C=C/CCCC)OCC | C20H40O2
